US08008487B2
Preparation of trans-1-[2-(4-Methoxybenzyloxymethyl)cyclopropyl]ethanone (Compound 201)
To a solution of trans-1-[2-(hydroxymethyl)cyclopropyl]ethanone (3.4 g, 30 mmol) (prepared as disclosed in Cossy, J.; Blanchard, N.; Meyer, C. Eur. J. Org. Chem. 2001, 339) in anhydrous DMF (60 mL) was added sodium hydride (60 percent dispersion in oil, 1.4 g, 36 mmol) in portions under N2 at 0° C. After the addition was complete, the mixture was stirred for 25 minutes and 4-methoxybenzyl chloride (5.2 g, 33 mmol) was added in one portion. The reaction was then allowed to warm to approximately 25° C. and stirred overnight. The reaction was quenched with saturated aqueous ammonium chloride solution (30 mL) followed by dilution with water and was extracted with ether (4×50 mL). The combined organic layer was then washed with half-saturated brine and dried over Na2SO4. After filtration and concentration, the residue was purified on silica gel (20 percent acetone/hexane) to give 4.1 g of product as a colorless oil in 58 percent yield.

reactant | trans-1-[2-(hydroxymethyl)cyclopropyl]ethanone | 30 mmol, 3.4 g | OC[C@H]1[C@@H](C1)C(C)=O | C6H10O2
reactant | sodium hydride | 36 mmol, 1.4 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 33 mmol, 5.2 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | trans-1-[2-(4-Methoxybenzyloxymethyl)cyclopropyl]ethanone | 4.1 g, 58 percent yield | COC1=CC=C(COC[C@H]2[C@@H](C2)C(C)=O)C=C1 | C14H18O3
